US03950376
3-Benzylthio-4-phenoxy-5-sulfamylbenzoic acid
3-Mercapto-4-phenoxy-5-sulfamylbenzoic acid (0.6 g) is suspended in water (20 ml) and the pH is adjusted to 8 by addition of 1 N sodium hydroxide. Benzyl bromide (0.35 g) is added to the resulting solution, and the reaction mixture is stirred for 2 hours at room temperature. After cooling, the precipitated sodium salt of 3-benzylthio-4-phenoxy-5-sulfamylbenzoic acid is collected by filtration. The salt is dissolved in hot water (60 ml) and the solution acidified by addition of 1 N hydrochloric acid. After cooling, the precipitated 3-benzylthio-4-phenoxy-5-sulfamylbenzoic acid is collected by filtration and recrystallized from aqueous ethanol to yield the desired compound with a melting point of 234°-236° C., after drying in vacuo.

reactant | 3-Mercapto-4-phenoxy-5-sulfamylbenzoic acid | 0.6 g | SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H11NO5S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | Benzyl bromide | 0.35 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 20 ml | O | H2O
product | 3-Benzylthio-4-phenoxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C20H17NO5S2
